US07915297B2
To a solution of 6 mg of 3-pyridin-2-yl-acrylic acid and 6 mg of 5-furan-2-yl-isoxazol-3-ylamine in DMF were added 8 mg of HOBt, 9 mg of EDC and 0.014 mL of TEA. The reaction solution was stirred for 18 hrs at room temperature, followed by concentration under reduced pressure. The concentrate was purified by preparative HPLC to provide 4 mg of N-(5-furan-2-yl-isoxazol-3-yl)-3-pyridin-2-yl-acrylamide. (Yield: 36%).

reactant | 3-pyridin-2-yl-acrylic acid | 6 mg | N1=C(C=CC=C1)C=CC(=O)O | C8H7NO2
reactant | 5-furan-2-yl-isoxazol-3-ylamine | 6 mg | O1C(=CC=C1)C1=CC(=NO1)N | C7H6N2O2
reactant | HOBt | 8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 9 mg
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(5-furan-2-yl-isoxazol-3-yl)-3-pyridin-2-yl-acrylamide | 4 mg, Yield: 36% | O1C(=CC=C1)C1=CC(=NO1)NC(C=CC1=NC=CC=C1)=O | C15H11N3O3
